US05411966
3-(2-Bromo-13-iodo-6-methyl-8alpha-ergolinyl)-1,1-diethylurea
42 mg of 3-(2-bromo-6-methyl-8alpha-ergolinyl)-1,1-diethylurea (0.1 mmol) is dissolved in 2 ml of trifluoroacetic acid and mixed with 22 mg of N-iodosuccinimide (0.1 mmol). After 15 minutes of stirring at room temperature, ice is added, it is made alkaline with ammonia, and shaken out with dichloromethane. The organic phases are dried and concentrated by evaporation, the residue is chromatographed. The pure substance crystallizes from dichloromethane, yield 9 mg (16% of theory).

reactant | 3-(2-bromo-6-methyl-8alpha-ergolinyl)-1,1-diethylurea | 0.1 mmol, 42 mg | BrC1=C2C[C@H]3N(C[C@H](C[C@@H]3C=3C=CC=C(N1)C32)NC(N(CC)CC)=O)C | C20H27BrN4O
reactant | N-iodosuccinimide | 0.1 mmol, 22 mg | IN1C(CCC1=O)=O | C4H4INO2
reactant | ammonia | N | H3N
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-(2-Bromo-13-iodo-6-methyl-8alpha-ergolinyl)-1,1-diethylurea | BrC1=C2C[C@H]3N(C[C@H](C[C@@H]3C=3C=C(C=C(N1)C32)I)NC(N(CC)CC)=O)C | C20H26BrIN4O
